US05498609
To a solution of 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.3 g) in methanol (5 ml) is added with stirring sodium borohydride (0.05 g) under ice-cooling, and the mixture is stirred at room temperature for one hour. To the reaction solution is added water, and the mixture is extracted with dichloromethane. The extract is washed with water, and dried over magnesium sulfate. The resultant is evaporated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography to give 7-chloro-5-hydroxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.2 g) as colorless amorphous.

reactant | 7-chloro-5-oxo-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.3 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)=O)C1 | C24H20ClN3O3
reactant | sodium borohydride | 0.05 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 7-chloro-5-hydroxy-1-[6-(2-methylbenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.2 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)O)C1 | C24H22ClN3O3
